US04140713
a. 5-(2-Bromoacetyl)-2-chlorobenzenesulphonamide
A solution of 5-acetyl-2-chlorobenzenesulphonamide (4.7 g) in glacial acetic acid (100 ml) was treated with bromine (3.2 g) in glacial acetic acid (20 ml), added dropwise with vigorous stirring at 50°. After an initial induction period of 5 minutes the colour of bromine was discharged. The addition took 30 minutes. The resulting solution was stirred for 15 minutes before removing the acetic acid under reduced pressure. The resulting white solid was dissolved in acetone (30 ml), diluted with benzene (250 ml) and the solution concentrated until the volume of solution was 150 ml. On cooling white crystals were deposited, 4.1 g, m.p. 168-172°.

reactant | 5-acetyl-2-chlorobenzenesulphonamide | 4.7 g | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)N)Cl | C8H8ClNO3S
reactant | bromine | 3.2 g | BrBr | Br2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 5-(2-Bromoacetyl)-2-chlorobenzenesulphonamide | BrCC(=O)C=1C=CC(=C(C1)S(=O)(=O)N)Cl | C8H7BrClNO3S
